US06894061B2
5-[(4-Methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine
A stirred solution of phenanthridine (3.58 g, 20 mmol) in anhydrous diethyl ether (20 mL) was cooled to −30° C. and treated drop-wise under nitrogen via syringe with a solution of 1.4 M methyllithium in diethyl ether (14.5 mL, 20.3 mmol). The yellow solution was warmed to room temperature and stirred for 15 minutes. The mixture was cooled to −78° C. and treated with 4-methoxybenzenesulfonyl chloride (4.12 g, 20 mmol), as a solid, in a single aliquot. The reaction mixture was warmed slowly to room temperature over one hour, poured into 1 N aqueous sodium hydroxide, and extracted with ethyl acetate. The organic phase was washed sequentially with water, a 1 N hydrochloric acid solution, and a saturated, aqueous sodium chloride solution. After drying over anhydrous sodium sulfate, the organic phase was filtered through a short column of silica gel, and the filtrate evaporated in vacuo to yield a crude yellow oil (5.3 g, 73%). The crude oil was purified by preparative chromatography on a Biotage® 40 Mi column of pre-packed silica gel (90 g), eluting with a mixture of methyl tert-butyl ether-hexane (15:85) at a flow rate of 40 mL/min to afford, after evaporation of the solvent, a colorless oil. Crystallization of the colorless oil from a mixture of diethyl ether-hexane yielded the title compound (2.02 g, 5.6 mmol, 28%) as a homogeneous, colorless, crystalline solid, m.p. 167-169° C.;

reactant | phenanthridine | 20 mmol, 3.58 g | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | methyllithium | 1.4 M | C[Li]
reactant | 4-methoxybenzenesulfonyl chloride | 20 mmol, 4.12 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 20.3 mmol, 14.5 mL | C(C)OCC | C4H10O
product | 5-[(4-Methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine | 5.6 mmol, 2.02 g, 28% | COC1=CC=C(C=C1)S(=O)(=O)N1C=2C=CC=CC2C2=CC=CC=C2C1C | C21H19NO3S
